US06506744B1
Treatment of 3-[2-(7-amino-5-oxo-2,3-dihydro-5H-benzo[f][1,4]oxazepin-4-yl)-acetylamino]-propionic acid ethyl ester (0.17 g, 0.5 mmol) with benzylisocyanate as described in Example 1 d) yielded 3-{2-[7-(3-benzyl-ureido)-5-oxo-2,3-dihydro-5H-benzo[f][1,4]oxazepin-4-yl]-acetylamino}-propionic acid ethyl ester (0.2 g, 0.42 mmol): mp. 70-75° C.; MS (ISP): 469 (M+1)+.

reactant | 3-[2-(7-amino-5-oxo-2,3-dihydro-5H-benzo[f][1,4]oxazepin-4-yl)-acetylamino]-propionic acid ethyl ester | 0.5 mmol, 0.17 g | C(C)OC(CCNC(CN1CCOC2=C(C1=O)C=C(C=C2)N)=O)=O | C16H21N3O5
reactant | benzylisocyanate | C(C1=CC=CC=C1)N=C=O | C8H7NO
product | 3-{2-[7-(3-benzyl-ureido)-5-oxo-2,3-dihydro-5H-benzo[f][1,4]oxazepin-4-yl]-acetylamino}-propionic acid ethyl ester | 0.42 mmol, 0.2 g | C(C)OC(CCNC(CN1CCOC2=C(C1=O)C=C(C=C2)NC(=O)NCC2=CC=CC=C2)=O)=O | C24H28N4O6
